US07488740B2
1. Methyl 4-chloro-2-methoxymethyl-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridine-3-carboxylate
Dissolve 4-hydroxy-2-methoxymethyl-7-(3-trifluoromethylpyridin-2-yl)-[1,8]naphthyridine-3-carboxylic acid methyl ester (500 mg, 1.27 mmol) in a solution of POCl3 (0.4 mL), 2,6-lutidine (0.43 mL) and CHCl3 (25 mL). Heat the mixture at reflux overnight. Remove the solvent under reduced pressure. Partition the residue between CH2Cl2 and saturated NaHCO3 (aq). Extract the aqueous layer twice with CH2Cl2 (2×100 mL). Dry the combined organic extracts over Na2SO4. Remove the solvent under reduced pressure. Purify the crude product by preparatory TLC eluting with EtOAc\Hexanes (1:1) to yield the title compound.

reactant | 4-hydroxy-2-methoxymethyl-7-(3-trifluoromethylpyridin-2-yl)-[1,8]naphthyridine-3-carboxylic acid methyl ester | 1.27 mmol, 500 mg | COC(=O)C=1C(=NC2=NC(=CC=C2C1O)C1=NC=CC=C1C(F)(F)F)COC | C18H14F3N3O4
reactant | POCl3 | 0.4 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | 2,6-lutidine | 0.43 mL | N1=C(C=CC=C1C)C | C7H9N
solvent | CHCl3 | 25 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-chloro-2-methoxymethyl-7-[3-(trifluoromethyl)pyridin-2-yl]-[1,8]naphthyridine-3-carboxylate | ClC1=C(C(=NC2=NC(=CC=C12)C1=NC=CC=C1C(F)(F)F)COC)C(=O)OC | C18H13ClF3N3O3
